US08492372B2
N-METHYL-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE
Preparation according to Example 22 using 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (30 mg, 0.10 mmol), N-methylethanamine (0.50 ml, 5.8 mmol) and EtOH (1.0 ml). MS m/z (rel. intensity, 70 eV) 285 (M+, 1), 77 (4), 73 (5), 72 (bp), 51 (3).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.10 mmol, 30 mg | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | N-methylethanamine | 5.8 mmol, 0.50 ml | CNCC | C3H9N
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | N-METHYL-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE | CN(CC)CC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C13H19NO4S
